US08461167B2
3-{[6-(acetylamino)pyridin-3-yl]ethynyl}-4-methylbenzoic acid
Ethyl 3-{[6-(acetylamino)pyridin-3-yl]ethynyl}-4-methylbenzoate (0.68 mmol) in 5 ml of ethanol is cooled to 0° C. To this solution is dropped in 3 ml of 1M NaOH. The hydrolysis is stirred at this temperature for 2 h and r.t. for 3 h. The solvent (ethanol) is evaporated, and more water is added to dissolve the solid. The clear solution is washed with ether twice and then titrated with 2M HCl to pH 6. The precipitate is filtered, washed with water and ether, and dried to afford the product. The filtrate (pH 6) was extracted with DCM, dried, and evaporated to obtain additional amount of the hydrolyzed product.

reactant | Ethyl 3-{[6-(acetylamino)pyridin-3-yl]ethynyl}-4-methylbenzoate | 0.68 mmol | C(C)(=O)NC1=CC=C(C=N1)C#CC=1C=C(C(=O)OCC)C=CC1C | C19H18N2O3
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | NaOH | 1M, 3 ml | [OH-].[Na+]
product | 3-{[6-(acetylamino)pyridin-3-yl]ethynyl}-4-methylbenzoic acid | C(C)(=O)NC1=CC=C(C=N1)C#CC=1C=C(C(=O)O)C=CC1C | C17H14N2O3
